US05254655
A mixture of 3-allyl-4-(N-allyl-N-methylamino)benzaldehyde (10.25 g, 0.05 mol), THF (100 ml), p-nitrobenzyl triphenylphosphonium bromide (27.4 g, 0.55 mol) and water (50 ml) is mixed at room temperature while 2M sodium carbonate solution (50 ml) is added over 5 minutes. The mixture is stirred mechanically for 2 hours. The mixture is diluted with water (300 ml) and extracted two times with ether (250 ml portions). The extracts are washed with water and brine, dried over magnesium sulfate and concentrated. The mixture is diluted with toluene (100 ml) and hexane (200 ml) and the triphenyl phosphine oxide filtered off. The filtrate is concentrated and chromatographed on silica with hexane-ethyl acetate to give pure N,2-diallyl-N-methyl-4-[2-(4-nitrophenyl)ethenyl]aniline.

reactant | 3-allyl-4-(N-allyl-N-methylamino)benzaldehyde | 0.05 mol, 10.25 g | C(C=C)C=1C=C(C=O)C=CC1N(C)CC=C | C14H17NO
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | p-nitrobenzyl triphenylphosphonium bromide | 0.55 mol, 27.4 g | [Br-].[N+](=O)([O-])C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | sodium carbonate | 2M, 50 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 300 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | N,2-diallyl-N-methyl-4-[2-(4-nitrophenyl)ethenyl]aniline | C(C=C)N(C1=C(C=C(C=C1)C=CC1=CC=C(C=C1)[N+](=O)[O-])CC=C)C | C21H22N2O2
